US07550495B2
Step C. N-[2-(1,1-Difluoroethyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]-N-methylacetamide
N-{5-[Acetyl(methyl)amino]-2-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}-2,2-difluoropropanamide (1.00 g, 2.70 mmol) was heated to 90° C. overnight in acetic acid (20 mL). The solvent was concentrated. The crude product was purified by flash chromatography on silica gel, using MeOH 3.5% and acetone 8% in DCM as eluent, giving the title compound. Yield: 0.48 g (50%); MS (ESI) (M+H)+: 352.0.

reactant | N-{5-[Acetyl(methyl)amino]-2-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}-2,2-difluoropropanamide | 2.70 mmol, 1.00 g | C(C)(=O)N(C=1C=CC(=C(C1)NC(C(C)(F)F)=O)NCC1CCOCC1)C | C18H25F2N3O3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | N-[2-(1,1-Difluoroethyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]-N-methylacetamide | FC(C)(F)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)N(C(C)=O)C | C18H23F2N3O2
